US07947693B2
3-{(1S)-1-[(2-Amino-7-{[(1R)-1-(hydroxymethyl)-3-methylbutyl]amino}[1,3]thiazolo[4,5-d]pyrimidin-5-yl)thio]ethyl}benzonitrile
The title compound was prepared in 31% yield from (2R)-2-[(2-amino -5-mercapto[1,3]thiazolo[4,5-d]pyrimidin-7-yl)amino]-4-methylpentan-1-ol (200 mg, 0.67 mmol) and 3-[(1R)-1-chloroethyl]benzonitrile (166 mg, 1.0 mmol) according to general method A.

reactant | (2R)-2-[(2-amino -5-mercapto[1,3]thiazolo[4,5-d]pyrimidin-7-yl)amino]-4-methylpentan-1-ol | 0.67 mmol, 200 mg | NC=1SC2=C(N=C(N=C2N[C@@H](CO)CC(C)C)S)N1 | C11H17N5OS2
reactant | 3-[(1R)-1-chloroethyl]benzonitrile | 1.0 mmol, 166 mg | Cl[C@H](C)C=1C=C(C#N)C=CC1 | C9H8ClN
product | 3-{(1S)-1-[(2-Amino-7-{[(1R)-1-(hydroxymethyl)-3-methylbutyl]amino}[1,3]thiazolo[4,5-d]pyrimidin-5-yl)thio]ethyl}benzonitrile | 31% yield | NC=1SC2=C(N=C(N=C2N[C@H](CC(C)C)CO)S[C@@H](C)C=2C=C(C#N)C=CC2)N1 | C20H24N6OS2
